US04377580
A mixture of 4-amino-6-(2-methylpropionamido)quinazoline (6.2 g) and dimethyl methoxymethylenepropanedioate (7.01 g) in N,N-dimethylformamide (25 ml) was stirred at 100° C. for 1.5 hours and cooled to room temperature. Water was added to the reaction mixture. The resulting solid was separated by filtration, washed with water and dried to give dimethyl [[6-(2-methylpropionamido)-4-quinazolinylamino]methylene]propanedioate (8.9 g). Recrystallization from ethyl acetate gave pure crystals melting at 212°-214° C.

reactant | 4-amino-6-(2-methylpropionamido)quinazoline | 6.2 g | NC1=NC=NC2=CC=C(C=C12)NC(C(C)C)=O | C12H14N4O
reactant | dimethyl methoxymethylenepropanedioate | 7.01 g | COC=C(C(=O)OC)C(=O)OC | C7H10O5
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | dimethyl [[6-(2-methylpropionamido)-4-quinazolinylamino]methylene]propanedioate | 8.9 g | CC(C(=O)NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OC)C(=O)OC)C | C18H20N4O5
